US04386081
(l) Dimethyl n-butoxycarbonylphosphonate
From 10.0 ml (85 mmole) of trimethylphosphite and 8.7 g (64 mmole) of n-butyl chloroformate. (100° C., 1.5 hours). Yield 10.9 g (81%). Bp1.0 97°-100° C. nD25 1,4269.

reactant | trimethylphosphite | 85 mmole, 10.0 ml | COP(OC)OC | C3H9O3P
reactant | n-butyl chloroformate | 64 mmole, 8.7 g | ClC(=O)OCCCC | C5H9ClO2
product | Dimethyl n-butoxycarbonylphosphonate | C(CCC)OC(=O)P(OC)(OC)=O | C7H15O5P
